US08865736B2
2-Benzyloxymethyl-4-(4-chloro-phenyl)-oxazole (Representative Procedure)
To a solution of 2-Benzyloxy-acetamide (1.40 g, 8.56 mmol) in 4 ml of DMF was added 2-Bromo-1-(4-chloro-phenyl)-ethanone (2.0 g, 8.56 mmol) and the reaction mixture was heated at 130° C. for 6 h under nitrogen atmosphere. After the completion of the reaction mixture (TLC monitoring), water (25 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified over silica gel (230-400 M, 10% EtOAc-Hexane) to get the desired product (1.1 g, 44%).

reactant | 2-Benzyloxy-acetamide | 8.56 mmol, 1.40 g | C(C1=CC=CC=C1)OCC(=O)N | C9H11NO2
reactant | 2-Bromo-1-(4-chloro-phenyl)-ethanone | 8.56 mmol, 2.0 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | water | 25 mL | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 2-Benzyloxymethyl-4-(4-chloro-phenyl)-oxazole | 1.1 g, 44% | C(C1=CC=CC=C1)OCC=1OC=C(N1)C1=CC=C(C=C1)Cl | C17H14ClNO2
